US07528135B2
1-[6-(4-Ethyl-piperazin-1-yl)-pyridin-3-yl]-3-propyl-urea
A mixture of 20 mg (0.1 mmol) 6-(4-isobutyl-piperazin-1-yl)-pyridin-3-ylamine, 15 mg (0.15 mmol) triethylamine and 9.4 mg (0.11 mmol) 1-isocyanato-propane in 1 ml DCM was stirred at room temperature for 16 h. After evaporation the residue was taken up in 1 ml methanol/acetonitrile 1/1 and subjected to preparative HPLC purification on reversed phase eluting with a gradient of acetonitrile/water (0.05% triethylamine). The combined product fractions were evaporated to dryness to yield 15.5 mg (53%) of the title compound. (m/e): 292.3 (MH+; 100%).

reactant | 6-(4-isobutyl-piperazin-1-yl)-pyridin-3-ylamine | 0.1 mmol, 20 mg | C(C(C)C)N1CCN(CC1)C1=CC=C(C=N1)N | C13H22N4
reactant | triethylamine | 0.15 mmol, 15 mg | C(C)N(CC)CC | C6H15N
reactant | 1-isocyanato-propane | 0.11 mmol, 9.4 mg | N(=C=O)CCC | C4H7NO
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
product | 1-[6-(4-Ethyl-piperazin-1-yl)-pyridin-3-yl]-3-propyl-urea | 15.5 mg, 53% | C(C)N1CCN(CC1)C1=CC=C(C=N1)NC(=O)NCCC | C15H25N5O
